Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]([O:3][H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C@@:2]([O:3][H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.0961932161394999
[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([O:4][H:5])=[C:6][H:7]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.2725121306
[C:1]#[C:2][C:3]([H:4])=[C:11]([H:12])[H:13].[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-0.27657647789
[H:10].[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10],-4.511657083459999
[H:1][C:2]([H:3])=[C:4][O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:4][O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:3],2.39419302933
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-0.58253542657
[H:10].[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.97463399167
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])([H:5])[C:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2],2.80504023883
[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([H:3])[O:4][C:5](=[C:6][H:7])[C:9]([H:10])([H:11])[H:12],5.21074746341
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[H:4],2.58230238787
[C:1]#[C:2][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[C:3]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-6.385713272359999
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],6.3836985869800005
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C@@:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])[H:19].[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-4.56065520792
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]#[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:4],2.95315913759
[C:1]#[C:5][H:6].[C:2]([H:3])#[C:4][O:7][C:8][H:9]>>[C:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[O:7][C:8][H:9],-1.49336402213
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7].[H:8],4.65603086809
[C:1]=[C:2]1[O:8][C:9]1([H:10])[H:11].[C:3]([H:4])=[C:5]([H:6])[H:7]>>[C:1][C@:2]1([C:3]([H:4])=[C:5]([H:6])[H:7])[O:8][C:9]1([H:10])[H:11],-2.53455221067
[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-6.13368227696
[O:1][C:2]([H:3])=[C:4]=[O:5]>>[C:2]([H:3])#[C:4][O:5].[O:1],5.33488033215
[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][H:7]>>[O:1]=[C:2][H:3].[O:4][C:5]#[C:6][H:7],2.612450741
[H:1][C:2]=[C:3]([H:4])[C@:8]([O:7][C:5][H:6])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],0.549635324071
[O:1]=[C:2]([H:3])/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[O:10][H:11]>>[C:2]([H:3])=[O:10].[O:1]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[H:11],1.86946696312
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11]>>[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11].[H:1][O:2],6.13576414255
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])=[C:4],6.55123574837
[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.2129164219
[O:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1][O:2][C:3]#[C:4],7.2455239530299975
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[O:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.41817870214
[C:1]=[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:1].[C:2]([C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],7.102335330139999
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.56426362205
